US05663200
19c) 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-phenylmethylhexanoic acid
A solution of 17.6 g of 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-phenylmethyldihydrofuran-2-(3H)one in 710 ml of ethylene glycol dimethyl ether and 352 ml of water is treated dropwise, at 20° C. and within the space of 10 min, with 176 ml of a 1M lithium hydroxide solution. After that, the reaction mixture is stirred at RT for 1.5 h, and the solvent is then evaporated off. The residue is poured onto 1 of cold 10% citric acid, and this acidic solution is extracted three times with 800 ml of ethyl acetate on each occasion. The combined extracts are washed first with 800 ml of water and then with 800 ml of saline. After the organic solution has been dried over sodium sulfate, the solvent is distilled off. The crude title compound is employed in the next stage without any further purification. FAB-MS (M+H)+ =414.

reactant | 5(S)-[1(S)-(Boc-amino)-2-phenylethyl]-3(R)-phenylmethyldihydrofuran-2-(3H)one | 17.6 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=CC=C1)[C@@H]1C[C@H](C(O1)=O)CC1=CC=CC=C1 | C24H29NO4
reactant | lithium hydroxide | 1M | [OH-].[Li+]
reactant | ethylene glycol dimethyl ether | 710 ml | COCCOC | C4H10O2
solvent | water | 352 ml | O | H2O
product | 5(S)-(Boc-Amino)-4(S)-hydroxy-6-phenyl-2(R)-phenylmethylhexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=CC=C1)O)CC1=CC=CC=C1 | C24H31NO5
